US07247728B2
N-(6-Quinolinyl)quinuclidine-3-carboxamide Hydrochloride
172 mg (1.19 mmol) of 6-aminoquinoline are mixed with 461 mg (3.57 mmol) of N,N-diisopropylethylamine in 3 ml of DMF under argon at 0° C. 250 mg (2.57 mmol) of 3-quinuclidinecarbonyl chloride hydrochloride are dissolved in a little dry DMF and added dropwise to the reaction mixture at 0° C. It is then stirred at room temperature overnight. It is worked up by concentrating and taking up in dichloromethane. The crude product is chromatographed on silica gel 60 (mobile phase: dichloromethane/ethyl acetate 10:1, then dichloromethane/methanol 10:1, 3:1). The product fractions are combined and finally purified by preparative HPLC (RP18 column; mobile phase: acetonitrile/water, gradient 1:99→30:70).

reactant | 6-aminoquinoline | 1.19 mmol, 172 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | N,N-diisopropylethylamine | 3.57 mmol, 461 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-quinuclidinecarbonyl chloride hydrochloride | 2.57 mmol, 250 mg | Cl.N12CC(C(CC1)CC2)C(=O)Cl
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(6-Quinolinyl)quinuclidine-3-carboxamide Hydrochloride | Cl.N1=CC=CC2=CC(=CC=C12)NC(=O)C1CN2CCC1CC2 | InChI=1S/C17H19N3O.ClH/c21-17(15-11-20-8-5-12(15)6-9-20)19-14-3-4-16-13(10-14)2-1-7-18-16;/h1-4,7,10,12,15H,5-6,8-9,11H2,(H,19,21);1H
